Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][C:2][O:3][C:4]([H:5])([H:6])[O:7][C:8]([H:9])([H:10])[C:11]([H:12])[H:13]>>[C:4]([H:5])([H:6])[O:7][C:8]([H:9])([H:10])[C:11]([H:12])[H:13].[H:1][C:2]=[O:3],0.8187368713709999
[H:1][C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])/[C:9]=[C:10](\[H:11])[C:12]([H:13])([H:14])[H:15]>>[C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])/[C:9]=[C:10](\[H:11])[C:12]([H:13])([H:14])[H:15].[H:1],3.60659532003
[H:1][C:2]=[C:4]([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15].[H:3]>>[H:1][C:2]([H:3])=[C:4]([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15],-4.96050285976
[H:1][C:2]=[C:3]([O:4][H:5])[C:6](=[C:7][H:8])[C:9]([H:10])([H:11])[H:12]>>[H:1][C:2]#[C:3][C:6](=[C:7][H:8])[C:9]([H:10])([H:11])[H:12].[O:4][H:5],3.06701576814
[O:1]=[C:2]([C:3]([H:4])[C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[H:12]>>[H:4].[O:1]=[C:2]([C:3][C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[H:12],4.7185831902
[H:1][O:2][C:3]([H:4])([H:5])[O:6][C:7][C:8]([H:9])([H:10])[H:11]>>[H:11].[H:1][O:2][C:3]([H:4])([H:5])[O:6][C:7]=[C:8]([H:9])[H:10],3.06132812486
[H:1][C:2]#[C:3][C@:4]([H:5])([C:6]([H:7])=[C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[H:14]>>[C:2]#[C:3][C@@:4]([H:5])([C:6]([H:7])=[C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[H:14].[H:1],5.96186347321
[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])[C:15]([H:16])([H:17])[H:18]>>[H:14].[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13][C:15]([H:16])([H:17])[H:18],4.83622252625
[H:1][O:2][C:3][C:4]([H:5])[O:6][C:7]([H:8])[H:9]>>[C:4]([H:5])[O:6][C:7]([H:8])[H:9].[H:1][O:2][C:3],4.22716804858
[C:13]([H:14])([H:15])[H:16].[H:1][C:2]([H:3])([H:4])[C:5]#[C:6][C:7]([H:8])[C:9]([H:10])([H:11])[H:12]>>[H:1][C:2]([H:3])([H:4])[C:5]#[C:6][C:7]([H:8])([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16],-3.38928048202
[C:3]([H:4])=[C:5]([H:6])[O:7][H:8].[H:1][C:2]>>[H:1][C:2]/[C:3]([H:4])=[C:5](\[H:6])[O:7][H:8],-6.46751913775
[H:1][O:2][C:3]([O:5][C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])[H:15].[H:4]>>[H:1][O:2][C@@:3]([H:4])([O:5][C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])[H:15],-4.2589679812300005
[H:1][O:2]/[C:3]([H:4])=[C:5]/[C@:6]([H:7])([C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[H:14]>>[C:8]([H:9])[H:10].[H:1][O:2][C:3]([H:4])=[C:5]=[C:6]([H:7])[C:11]([H:12])([H:13])[H:14],2.48613842967
[O:1]=[C:2]([H:3])[C:4]([H:5])[C:6]([H:7])([H:8])[O:9][C:10]([H:11])([H:12])[H:13]>>[C:10]([H:11])([H:12])[H:13].[O:1]=[C:2]([H:3])[C:4]([H:5])[C:6]([H:7])([H:8])[O:9],3.6975032463
[H:1][O:2][C@@:3]([H:4])([C:5]=[C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15]>>[C:5]=[C:6]([H:7])[H:8].[H:1][O:2][C:3]([H:4])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15],3.28327892307
[C:6]([H:7])([H:8])([C:9][H:10])[H:15].[H:1][C:2]([H:3])=[C:4]([H:5])[C:11]([H:12])([C:13][H:14])[H:16]>>[H:1][C:2]([H:3])=[C:4]([H:5])[C:6]([H:7])([H:8])/[C:9]([H:10])=[C:11](\[H:12])[C:13]([H:14])([H:15])[H:16],-8.31444817217
[H:3].[O:1]=[C:2]=[C:4]([H:5])[O:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13]>>[O:1]=[C:2]([H:3])[C:4]([H:5])[O:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13],-2.97280625748
[C:5](\[O:6][H:7])=[C:8](\[H:9])[O:10][H:11].[H:1][C:2]#[C:3][H:4]>>[H:1][C:2]=[C:3]([H:4])/[C:5]([O:6][H:7])=[C:8](\[H:9])[O:10][H:11],-2.20379957529
[C:5]#[C:6][O:7][H:8].[H:1][O:2][C:3]#[C:4]>>[H:1][O:2][C:3]#[C:4][C:5]#[C:6][O:7][H:8],-6.6972135139
[C:4][C:5]([H:6])([H:7])[O:8][H:9].[H:1][O:2][C:3][C:10]([H:11])([H:12])[H:13]>>[H:1][O:2]/[C:3](=[C:4]\[C:5]([H:6])([H:7])[O:8][H:9])[C:10]([H:11])([H:12])[H:13],-5.32575648532
[H:1][O:2][C:3]([H:4])[O:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12]>>[H:1][O:2][C:3][O:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12].[H:4],2.6809592042
[O:1]=[C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13]>>[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13].[O:1]=[C:2][C:3]([H:4])([H:5])[H:6],3.6583434761
[H:13].[H:1][C:2][C:3]([H:4])[C:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[O:12]>>[H:1][C:2]=[C:3]([H:4])[C:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[O:12][H:13],-4.98407191582
[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([C:13]([H:14])([H:15])[H:16])[C:17]([H:18])([H:19])[H:20].[H:1][C:2]([H:3])[H:4]>>[H:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([C:13]([H:14])([H:15])[H:16])[C:17]([H:18])([H:19])[H:20],-4.02133298639
[H:9].[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]#[C:10][O:11][H:12]>>[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])/[C:8]([H:9])=[C:10]/[O:11][H:12],-2.25262551902
[H:1][C:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16]>>[H:1][C:2].[O:3][C:4]([H:5])([H:6])[C:7]([H:8])([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16],6.19573231293
